US09084794B2
d) 2-bromo-2-(4-bromo-2,6-difluorophenyl)ethyl acetate
A solution of 4-bromo-2,6-difluorophenethyl acetate (1.182 mmol) in carbon tetrachloride (3 mL) was degassed with a stream of nitrogen for 5 min and was then treated with N-bromosuccinimide (1.301 mmol) and azobisisobutyronitrile (0.118 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was stirred in an oil bath at 80° C. overnight. The reaction was then cooled and was concentrated to dryness under a stream of nitrogen. The crude material was dissolved in ethyl acetate (50 mL) and was washed twice with water. The organic layer was then dried over sodium sulfate, filtered and concentrated in vacuo. The product was dissolved in dichloromethane and was again concentrated to dryness in vacuo to afford the title compound as a yellow oil (403 mg, 86% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.01 (s, 3 H) 4.55-4.70 (m, 2 H) 5.50 (t, J=7.45 Hz, 1 H) 7.55-7.67 (m, 2 H).

reactant | 4-bromo-2,6-difluorophenethyl acetate | 1.182 mmol | C(C)(=O)OCCC1=C(C=C(C=C1F)Br)F | C10H9BrF2O2
reactant | N-bromosuccinimide | 1.301 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.118 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-2-(4-bromo-2,6-difluorophenyl)ethyl acetate | 403 mg, 86% yield | C(C)(=O)OCC(C1=C(C=C(C=C1F)Br)F)Br | C10H8Br2F2O2
